US05486466
tert-Butyl (4R,7S)-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo-13-propyl-9,2,5-benzoxathiaazacyclododecine-7-carbamate was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 13 to yield tert-butyl (4R,7S)-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-13-propyl-9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white solid.

reactant | tert-Butyl (4R,7S)-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-4-methoxycarbonyl-11-methyl-6,10-dioxo-13-propyl-9,2,5-benzoxathiaazacyclododecine-7-carbamate | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O[Si](C)(C)C(C)(C)C)CCC | C36H62N2O9SSi2
reactant | ammonium fluoride | [F-].[NH4+]
solvent | methanol | CO | CH4O
product | tert-butyl (4R,7S)-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-13-propyl-9,2,5-benzoxathiaazacyclododecine-7-carbamate | OC=1C(=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C1C)O)CCC | C24H34N2O9S
